US09340527B2
To a solution of 2-(pyridin-3-yl)acetic acid (274 mg, 2.0 mmol, 1.0 eq) in AcOH (2 mL) was added PtO2 (226 mg, 1.0 mmol, 0.5 eq). The mixture was stirred at room temperature for 16 h under H2. The catalyst was filtered out and the filtrate was concentrated to give 2-(piperidin-3-yl)acetic acid as a slight yellow solid (300 mg, Y: 81%). ESI-MS (M+H)+: 143.1. 1H NMR (400 MHz, CD3OD) δ: 3.34-3.31 (m, 1H), 2.84-2.77 (m, 1H), 2.64-2.57 (m, 3H), 2.18-2.10 (m, 3H), 1.86-1.83 (m, 2H), 1.71-1.67 (m, 1H), 1.24-1.22 (m, 1H).

reactant | 2-(pyridin-3-yl)acetic acid | 2.0 mmol, 274 mg, 1.0 eq | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
catalyst | PtO2 | 1.0 mmol, 226 mg, 0.5 eq | O=[Pt]=O
product | 2-(piperidin-3-yl)acetic acid | N1CC(CCC1)CC(=O)O | C7H13NO2
